Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
arm weakness
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
PCP: 
Name: ___ 
Location: ___ 
Address: ___, ___ 
Phone: ___ 
Fax: ___ 

Admission ___ 0400

CC:arm weakness

___ heavy smoker with recently diagnosed lung mass(no tissue 
dx to confirm pathology) who was driving today and noted right 
arm and leg shaking that was episodic in nature and associated 
with weakness and numbness. 

He was taken to an OSH where a CT scan with and without contrast 
revealed numerous lesions consitent with metastatic disease vs. 
abscess. He received a dilantin load and a dose of decadron and 
was sent to ___ for further eval.  

In ER: VSS. He was seen by neurology and neurosurgery who 
recommended keppra bid, MRI brain, and oncology w/u.

ROS:  
-Constitutional: []WNL []Weight loss [x]Fatigue/Malaise []Fever 
[]Chills/Rigors []Nightweats []Anorexia  
-Eyes: []WNL []Blurry Vision []Diplopia []Loss of Vision 
[]Photophobia  
-ENT: []WNL []Dry Mouth []Oral ulcers []Bleeding gums/nose 
[]Tinnitus []Sinus pain []Sore throat  
-Cardiac: [x]WNL []Chest pain []Palpitations ___ edema 
[]Orthopnea/PND []DOE  
-Respiratory: [x]WNL []SOB []Pleuritic pain []Hemoptysis []Cough 
 
-Gastrointestinal: [x]WNL []Nausea []Vomiting []Abdominal pain 
[]Abdominal Swelling []Diarrhea []Constipation []Hematemesis 
[]Hematochezia []Melena  
-Heme/Lymph: []WNL []Bleeding []Bruising []Lymphadenopathy  
-GU: [x]WNL []Incontinence/Retention []Dysuria []Hematuria 
[]Discharge []Menorrhagia  
-Skin: [x]WNL []Rash []Pruritus  
-Endocrine: []WNL []Change in skin/hair []Loss of energy 
[]Heat/Cold intolerance  
-Musculoskeletal: [x]WNL []Myalgias []Arthralgias []Back pain  
-Neurological: [ ]WNL [x]Numbness of extremities [x]Weakness of 
extremities []Parasthesias []Dizziness/Lightheaded []Vertigo 
[]Confusion []Headache  

 
Past Medical History:
HTN
diabetes

 
Social History:
___
Family History:
no FHx of cancer
 
Physical Exam:
VS: T P BP O2 %RA L NC admit weight: lbs/kg
Gen: Well/ill appearing, no acute distress, awake, alert, 
appropriate, and oriented x 3, poor hygiene.
Skin: warm/cool to touch, no apparent rashes. 
HEENT: No conjunctival pallor, no scleral jaundice, PERRLA, 
EOMI, OP clear, no cervical LAD, no palpable thyroid nodules.
CV: JVP cmH20, carotid w/o bruits, diminished heart sounds, RRR 
no audible m/r/g, PMI non-displaced, no RV heave, pulses R-DP 
2+/1+/doppler, L-DP 2+/1+/Doppler, R-radial 2+/1+/Doppler, 
L-radial 2+/1+/Doppler, No/1+/2+/3+ peripheral edema.
Lungs: clear to auscultation, wheezing, crackles, fremitus, 
dullness to percussion.
Abd: soft, NT, normal BS, hemoccult neg. No hepatomegaly, No 
splenomegaly. No abd bruits.
Ext: No C/C/E
Neuro: Gait, strength and sensation intact bilaterally. 

 
Pertinent Results:
___ 08:00PM   GLUCOSE-154* UREA N-11 CREAT-0.7 SODIUM-139 
POTASSIUM-4.0 CHLORIDE-102 TOTAL CO2-25 ANION GAP-16
___ 08:00PM   estGFR-Using this
___ 08:00PM   CALCIUM-9.5 PHOSPHATE-2.9 MAGNESIUM-1.7
___ 08:00PM   PHENYTOIN-11.0
___ 08:00PM   WBC-9.6 RBC-5.72 HGB-16.4 HCT-47.6 MCV-83 
MCH-28.6 MCHC-34.4 RDW-13.9
___ 08:00PM   NEUTS-91.1* LYMPHS-5.6* MONOS-1.5* EOS-1.4 
BASOS-0.5
___ 08:00PM   PLT COUNT-214
___ 08:00PM   ___ PTT-30.9 ___
___ 08:00PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 08:00PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-25 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-5.0 
LEUK-NEG
___ 08:00PM URINE  RBC-0 ___ BACTERIA-NONE YEAST-NONE 
___
.
Final Report 
INDICATION: Newly diagnosed brain metastasis, unknown primary. 
  
No comparison studies available. 
  
TECHNIQUE: MDCT-acquired axial images of the chest, abdomen, and 
pelvis were 
obtained with use of IV and p.o. contrast. Coronal and sagittal 
reformats 
were performed with 5-mm slice thickness. 
  
CT OF THE CHEST WITH IV CONTRAST: A 14-mm right thyroid nodule 
is present 
(5:11). Scattered axillary and mediastinal lymph nodes do not 
meet CT 
criteria for lymphadenopathy. The heart size is normal. There is 
no 
pericardial effusion. The great vessels are patent and normal in 
caliber.  
There is moderately severe atherosclerotic calcification of the 
thoracic 
aorta. 
  
A 35 x 27 mm mass is present within the right upper lobe (5:27). 
A 66 x 51 mm 
mass is present within the left lower lobe (5:32) with 
obstructive compression 
of neighboring bronchioles, with neighboring atelectasis. 
Neighboring small 
left pleural effusion is present. The mass appears to encompass 
over 50% of 
the thoracic aorta and the superior border (5:27). 
  
CT OF THE ABDOMEN WITH IV CONTRAST:  
Multiple hypodense lesions are present throughout the liver. The 
largest 
measures 50 x 42 mm (5:65). A neighboring 31 x 19 mm lesion 
demonstrates 
heterogeneous enhancement (5:66), concerning for neoplasm. Other 

subcentimeter lesions are to small for further 
characterization(5:52, 55, 46). 
There is no intrahepatic biliary ductal dilatation. A 27 x 23 mm 

heterogeneous lesion is present within the spleen (5:56). 
Multiple hypodense 
lesions are also present within both kidneys, including a mid 
pole 8-mm left 
renal lesion (5:63), a 1 cm left lower pole lesion (5:76), and a 
subcentimeter 
hypodensity within the upper pole of the right kidney (5:55). A 
heterogeneous 
lesion arises from the posterior aspect of the right kidney 
(5:68), too small 
to characterize, but concerning in the presence of multiple 
solid abdominal 
lesions. There is a duplicated left ureter with mild dilation of 
the upper 
duct, with convergence witin the proximal segment of the 
collecting system 
(5:77). There is no left hydronephrosis. 
  
A hypoenhancing 10-mm nodule is present within the left adrenal 
gland (5:60).  
The right adrenal gland, pancreas, stomach, and intra-abdominal 
loops of small 
and large bowel are unremarkable. There is no mesenteric or 
retroperitoneal 
lymphadenopathy. There is no free air or free fluid. 
  
CT OF THE PELVIS WITH IV CONTRAST:  
The rectum is normal. Extensive diverticulosis of the sigmoid 
and descending 
colon is present, with no evidence of diverticulitis. The 
remaining 
intrapelvic loops of small and large bowel are unremarkable. The 
appendix is 
normal. There is no intrapelvic free fluid or lymphadenopathy 
detected. The 
bladder, prostate, and seminal vesicles appear normal. 
  
OSSEOUS STRUCTURES: A destructive, expansile lytic lesion is 
present within 
the sternum, measuring 25 x 16 mm (5:30). A destructive lytic 
lesion is also 
present within the left femoral head, measuring 23 x 21 mm 
(5:112). 
  
IMPRESSION: Multiple masses within both lungs, liver, spleen, 
left adrenal 
gland, kidneys, and bones are concerning for metastatic disease. 
This 
constellation of findings, in combination with known brain 
metastasis, is most 
likely pulmonary in origin, however, a biopsy is recommended for 
a more 
definitive diagnosis.  
  
The study and the report were reviewed by the staff radiologist. 

  
___. ___ 
___. ___ 
___: SAT ___ 12:24 AM 

Multiple rim enhancing lesions are seen in the left frontal, 
left parietal, 
bilateral occipital and both cerebellar regions. Mild vasogenic 
edema is seen 
surrounding the lesion in the left frontal region with mild 
effacement of the 
left frontal horn, this is similar to the prior CT of ___. 
No midline 
shift. Mild edema is seen around the lesions in the right 
parietal and 
occipital regions. No obstructive hydrocephalus seen. D/w 
___ at 9.30 A.M 
kkaliann. 
  
___. ___ 
___ entered: SAT ___ 9:41 AM 

 
Brief Hospital Course:
___ with new seizure likely secondary to brain mets from a lung 
CA although none of this has been confirmed with a tissue 
diagnosis. Patient admitted for seizure control and further w/u 
of his underlying condition. 
.
SEIZURE, PARTIAL: Partial, no LOC.  Most likely related to 
metastatic brain disease.  Asymptomatic on the ward.  Started on 
keppra.  Neurology and Neurosurgery consulted.  MRI brain 
performed showing multiple metastatic lesions, but no 
significant vasogenic edema, midline shift, hydrocephalus.  
Neurosurgery recommended no intervention, recommended no 
decadron.  Neurology recommended continuation of keppra for sz 
ppx.
.
Malignancy, metastatic: PCP recently diagnosed him with a lung 
mass.  He underwent CT Torso as well as MRI brain showing stage 
IV disease.  Labs fairly unremarkable.  On discussion with pt. 
he elected not to pursue evaluation via biopsy.  He is 
ambivalent about pursuing any further evaluation for this 
disease.  He expressed his desire to be discharged home and to 
follow up with his primary MD for ongoing discussion of plan 
moving forward for possible hospice care or further eval via 
bronchoscopic biopsy.  I discussed this with Dr. ___, 
___ for Dr. ___ on ___ over the phone.  He agreed and 
understood.  Given pt.s stable clinical status he was discharged 
home - I discussed at length with his son who came to pick him 
up from hospital.  Pt. will follow up with Dr. ___ week 
to discuss further evaluation and treatment vs. hospice care.
.
HYPERTENSION, BENIGN: Continued home regimen with good control
.
DIABETES TYPE II, CONTROLLED, W/O COMPLICATIONS: stable - 
insulin prescribed while in hospital, resumed metformin on 
discharge.
.
Depression: Social work consulted.  Started on low dose Celexa.

 
Medications on Admission:
Metformin dose unknown
Hydralazine 25mg po BID
HCTZ 50mg po BID?
Albuterol prn
Lisinopril 40mg po daily
Kclor-con M10 1 tap po qday
Propranolol SA 160mg po bid
MV
Fiber

 
Discharge Medications:
No changes to above regimen, the following added:

1. Levetiracetam 500 mg Tablet Sig: Two (2) Tablet PO BID (2 
times a day).
Disp:*120 Tablet(s)* Refills:*0*
2. Citalopram 20 mg Tablet Sig: 0.5 Tablet PO DAILY (Daily).
Disp:*30 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
metastatic cancer, likely lung primary, with metastases to brain 
(stage IV)

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Do not drive.  Do not drink alcohol.  You have had a seizure 
related to a metastatic cancerous tumor in your brain.  You are 
on medications to protect you from further seizures, however, a 
seizure could recur, and this puts you and others at risk if you 
are driving.  Alcohol also increases your risk for seizures, so 
you should not drink alcohol.

Follow up with Dr. ___ on ___ - call him 
___ ___

Resume your medications exactly as you were taking them prior to 
coming in to the hospital.  The only changes that was made is 
the addition of two medicines to be taken as prescribed, one to 
prevent seizures (Keppra) and one for depression (Celexa) - 
prescriptions are attached.
 
Followup Instructions:
___